US07816557B2
Racemic 3-{4-[(4′-tert-butyl-biphenyl-4-yloxy)-cyclohexyl-methyl]-benzoylamino}-propionic acid
The title compound is prepared in a manner substantially similar to Example 128 starting from 3-{4-[(4-bromo-phenoxy)-cyclohexyl-methyl]-benzoylamino}-propionic acid methyl ester and 4-tert-butyl phenyl boronic acid. MS: 512.3 [M−H].

reactant | 3-{4-[(4-bromo-phenoxy)-cyclohexyl-methyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(C1CCCCC1)OC1=CC=C(C=C1)Br)=O)=O | C24H28BrNO4
reactant | 4-tert-butyl phenyl boronic acid | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | Racemic 3-{4-[(4′-tert-butyl-biphenyl-4-yloxy)-cyclohexyl-methyl]-benzoylamino}-propionic acid | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(C1=CC=C(C(=O)NCCC(=O)O)C=C1)C1CCCCC1 | C33H39NO4
